US04839365
To 5.70 g (0.0337 mol) of 2-acetylaminoethylthiophene (f-l) was added 157 ml of dry benzene; and while being refluxed, a mixture of 13.80 g (0.09 mol) of phosphorus oxychloride and 63 ml of dry benzene was added dropwise to the solution. After being refluxed for 2 hr., the mixture was cooled with ice, and the reaction solution was poured into 315 g of ice. Under ice-cooling, the mixture was adjusted to pH 10 or more with 48% aqueous NaOH, and the solution was extracted with ether. After being washed with saturated brine, the ether layer was dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure to give 4.45 g (Yield : 87.3%) of the objective product, 4-methyl-6, 7-dihydrothieno[3, 2-c]pyridine (g-l) as dark red liquid.

reactant | 2-acetylaminoethylthiophene | 0.0337 mol, 5.70 g | C(C)(=O)NCCC=1SC=CC1 | C8H11NOS
reactant | phosphorus oxychloride | 0.09 mol, 13.80 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | benzene | 63 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 157 ml | C1=CC=CC=C1 | C6H6
product | 4-methyl-6, 7-dihydrothieno[3, 2-c]pyridine | CC1=NCCC2=C1C=CS2 | C8H9NS
